US09023847B2
39. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (3-methoxy-phenyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 3-methoxaniline instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 365 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.55 (1H, br. s.) 10.06 (1H, s) 9.83 (1H, s) 8.03 (1H, d, J=5.42 Hz) 7.90 (1H, d, J=5.42 Hz) 7.49 (1H, d, J=5.42 Hz) 7.32 (1H, dd, J=3.51, 2.44 Hz) 7.20-7.30 (3H, m) 6.81 (1H, d, J=5.42 Hz) 6.68 (1H, dt, J=7.42, 2.12 Hz) 6.47 (1H, dd, J=3.56, 1.90 Hz) 3.74 (3H, s)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 1-BOC-3-aminopyrrolidine | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (3-methoxy-phenyl)-amide | COC=1C=C(C=CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H16N4O2S
